US04970074
Synthesis of 5(6)-carboxyfluorescein-tris(methylol)methylamide
A 1000 ml round bottom flask was charged with 63.4 g (0.134 mole) of 5(6)-carboxyfluorescein N-hydroxysuccinimide ester, and 16.2 g (0.134 mole), of tris(hydroxymethyl)aminomethane, and 33.8 g (0.335 mole) of triethylamine. The contents of the flask were dissolved in 200 ml of dry dimethylformamide and stirred under nitrogen for 24 hours. A trace of 4-dimethylaminopyridine was added and the reaction was heated under nitrogen for another hour at 70° C. At the end of this period the reaction appeared complete by thin layer chromatography. The solvent was reduced down to a total volume of 200 ml of a dark red oily solution. This material was purified on preparatory HPLC apparatus using silica gel column and an elution solvent of acetic acid:2-propanol:ethyl acetate (2 8:70). The yield obtained was 20.5 g (32%). The desired structure was confirmed by 1H-NMR (CD3OD) which gave the following chemical shifts:

reactant | 5(6)-carboxyfluorescein N-hydroxysuccinimide ester | 0.134 mole, 63.4 g | C1CC(=O)N(C1=O)OC(=O)C2=CC(=C(C=C2)C(=O)O)C3=C4C=CC(=O)C=C4OC5=C3C=CC(=C5)O.C1CC(=O)N(C1=O)OC(=O)C2=CC=CC(=C2C3=C4C=CC(=O)C=C4OC5=C3C=CC(=C5)O)C(=O)O | 2C25H15NO9
reactant | tris(hydroxymethyl)aminomethane | C(C(CO)(CO)N)O | C4H11NO3
reactant | triethylamine | 0.335 mole, 33.8 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 5(6)-carboxyfluorescein tris(methylol)methylamide | C1=CC2=C(C=C1C(=O)O)C3(C=4C=CC(=CC4OC5=C3C=CC(=C5)O)O)OC2=O.C(O)C(CO)(CO)[NH-] | InChI=1S/C21H12O7.C4H10NO3/c22-11-2-5-14-17(8-11)27-18-9-12(23)3-6-15(18)21(14)16-7-10(19(24)25)1-4-13(16)20(26)28-21;5-4(1-6,2-7)3-8/h1-9,22-23H,(H,24,25);5-8H,1-3H2/q;-1
